US04076741
A solution of potassium phenoxide (15.0 g. 0.1 m) and 4-chloro-α,α,α,α',α',α'-hexafluoro-m-xylene in sulfolane (50 ml.) is heated 60 hours at 140°-160° C. The solution is cooled and benzene (400 ml.) and hexane (250 ml.) are added and the solution washed twice with water (1 liter, 500 ml.), twice with 10% sodium carbonate solution (~200 ml. each), and water, dried, filtered through activated silica gel (18 25 g.), the solvents removed, and the residue distilled to give α,α,α,α',α',α'-hexafluoro-2,4-xylylphenyl ether (22.4 g., 73%) b.p. 81°-85° C./~ 1 mm.

reactant | potassium phenoxide | 15.0 g | [O-]C1=CC=CC=C1.[K+]
reactant | 4-chloro-α,α,α,α',α',α'-hexafluoro-m-xylene | ClC1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F | C8H3ClF6
reactant | benzene | 400 ml | C1=CC=CC=C1 | C6H6
reactant | hexane | 250 ml | CCCCCC | C6H14
solvent | sulfolane | 50 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | α,α,α,α',α',α'-hexafluoro-2,4-xylylphenyl ether | 22.4 g, 73% | FC(C1=C(C=CC(=C1)C(F)(F)F)C1=C(C=CC=C1)OC1=C(C=CC=C1)C1=C(C=C(C=C1)C(F)(F)F)C(F)(F)F)(F)F | C28H14F12O
